US09085552B1
5. Preparation of 3-(3-chloro-1H-pyrazol-1-yl)pyridine (5b)
To a mixture of 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid (0.223 g, 1.0 mmol) in N,N-dimethylacetamide (3.0 mL) was added copper(I) oxide (0.022 g, 10 wt %). The mixture was heated to 125° C. and stirred for 6 hours. The brown mixture was filtered and washed with N,N-dimethylacetamide (1.0 mL) and acetonitrile (2×2 mL). The light yellow filtrate was analyzed by LC using di-n-propyl phthalate as internal standard (0.124 g, 69% in-pot yield); mp 66-68° C.; 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=27 Hz, 1H), 8.57 (dd, J=4.8, 1.4 Hz, 1H), 8.02 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.91 (d, J=2.6 Hz, 1H), 7.47-7.34 (m, 1H), 6.45 (d, J=2.6 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 148.01, 142.72, 140.12, 135.99, 128.64, 126.41, 124.01, 108.0; ESIMS m/z 180 ([M+H]+).

reactant | 3-chloro-1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid | 1.0 mmol, 0.223 g | ClC1=NN(C=C1C(=O)O)C=1C=NC=CC1 | C9H6ClN3O2
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
catalyst | copper(I) oxide | 0.022 g | [Cu-]=O
product | 3-(3-chloro-1H-pyrazol-1-yl)pyridine | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
